US05350859
In 8 ml of methyl isobutyl ketone were dissolved 500 mg (2.27 mmoles) of 3-benzyloxymethyl-imidazolidine-2,4-dione and 37 mg (0.115 mmoles) of tetrabutylammonium bromide followed by addition of 114 mg (2.85 mmoles) of sodium hydroxide at room temperature with stirring. Thereafter, 610 mg (4.55 mmoles) of propargyl methanesulfonate was added dropwise at room temperature with stirring and the mixture was further stirred at room temperature for 7 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution in that order, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was subjected to silica gel column chromatography (eluent; hexane:ethyl acetate =3:1) to give 461 mg (1.78 mmoles) of 3-benzyloxymethyl-l-propargylimidazolidine-2,4-dione.

reactant | 3-benzyloxymethyl-imidazolidine-2,4-dione | 2.27 mmoles, 500 mg | C(C1=CC=CC=C1)OCN1C(NCC1=O)=O | C11H12N2O3
reactant | sodium hydroxide | 2.85 mmoles, 114 mg | [OH-].[Na+]
reactant | propargyl methanesulfonate | 4.55 mmoles, 610 mg | CS(=O)(=O)OCC#C | C4H6O3S
reactant | Water | O | H2O
solvent | methyl isobutyl ketone | 8 ml | C(C(C)C)C(=O)C | C6H12O
catalyst | tetrabutylammonium bromide | 0.115 mmoles, 37 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-benzyloxymethyl-l-propargylimidazolidine-2,4-dione | 1.78 mmoles, 461 mg, Yield 79% | C(C1=CC=CC=C1)OCN1C(N(CC1=O)CC#C)=O | C14H14N2O3
